US06420383B1
2-[Methyl(3-thienylmethyl)amino]ethanol
2-(Methylamino)-ethanol (0.047 mol, 3.5 g) and 3-thiophenecarboxaldehyde (0.047 mol, 5.3 g) were dissolved in 50 mL of MeOH and 10 mL of AcOH. NaCNBH3 (0.023 mol, 1.5 g) was added portionwise, and the resulting mixture was stirred for 18 h. The solvent was removed in vacuo, and the residue was taken up in 1N KOH and extracted with EtOAc. The organics were dried and concentrated to give an oil which was filtered through a six inch silica gel plug using 1:1 hexanes:ethyl acetate to give 7.6 g of product. 1H NMR (300 MHz) CDCl3: 7.3 (m, 1H), 7.12 (s, 1H), 7.05 (d, 1H), 3.6 (m, 4H), 2.57 (t, 2H), 2.25 (s, 3H).

reactant | 2-(Methylamino)-ethanol | 0.047 mol, 3.5 g | CNCCO | C3H9NO
reactant | 3-thiophenecarboxaldehyde | 0.047 mol, 5.3 g | S1C=C(C=C1)C=O | C5H4OS
reactant | NaCNBH3 | 0.023 mol, 1.5 g | [BH3-]C#N.[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 2-[Methyl(3-thienylmethyl)amino]ethanol | 7.6 g | CN(CCO)CC1=CSC=C1 | C8H13NOS
